US04166869
b. 2,4-Dichloro-6-methyl-pyrimidine
45 g (0.36 M) of 2,4-dihydroxy-6-methyl-pyrimidine have been treated with phosphorous oxychloride in the presence of diethylaniline. After having been refluxed during 3 hours the reaction mixture was cooled and the excess of phosphorous oxychloride was decomposed over ice, then the mixture was neutralized with NaOH, saturated with a NaCl solution and extracted with ether. By separation and evaporation of the ethereal extracts there was obtained a residue which was distilled to yield 57 g of the title compound at B.p. 99°/11 Torr.

reactant | 2,4-dihydroxy-6-methyl-pyrimidine | 0.36 M, 45 g | OC1=NC(=CC(=N1)O)C | C5H6N2O2
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diethylaniline | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | NaOH | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
product | 2,4-Dichloro-6-methyl-pyrimidine | 57 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
